US08802659B2
cis-4-tert-butylcyclohexyl methanesulfonate
Cis-4-t-butylcyclohexanol (6.0 g, 38.5 mmol, 1.0 eq.) was dissolved in dichloromethane (10 mL). Then methanesulfonic anhydride (8.03 g, 46.2 mmol, 1.1 eq.) was added to the mixture slowly at 0° C. Then triethylamine (6.4 mL, 46.2 mmol, 1.5 eq.) was added to the mixture and the mixture stirred at room temperature for 3 h. The mixture was extracted with dichloromethane and the organic layer was concentrated to give product as a white power (8.0 g, yield: 90%). The product was used to next step without further purification. 1H NMR (400 MHz, CDCl3) δ 4.99-4.98 (m, 1H), 3.02 (s, 3H), 2.14-2.12 (m, 2H), 1.65-1.28 (m, 7H), 0.84 (s, 9H).

reactant | Cis-4-t-butylcyclohexanol | 38.5 mmol, 6.0 g, 1.0 eq. | C(C)(C)(C)[C@H]1CC[C@H](CC1)O | C10H20O
reactant | methanesulfonic anhydride | 46.2 mmol, 8.03 g, 1.1 eq. | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 46.2 mmol, 6.4 mL, 1.5 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | cis-4-tert-butylcyclohexyl methanesulfonate | yield: 90% | CS(=O)(=O)O[C@@H]1CC[C@@H](CC1)C(C)(C)C | C11H22O3S
